US04513002
A mixture, stirred at -40°, of 1.28 l of dry tetrahydrofuran and 2.1 l of dry liquid ammonia is treated with 8.6 g of lithium wire. The mixture is stirred for 2 minutes and subsequently there is added thereto over a period of 6 minutes a solution, pre-cooled to -40°, of 80.0 g of 10,11-dihydro-5H-dibenzo[a,d]cycloheptene in 1.44 l of dry tetrahydrofuran and 280 g of t-butanol. After a color change from blue to colorless, the mixture is treated with 6.0 g of sodium benzoate and the ammonia is evaporated. The mixture is washed three times with 500 ml of water each time. The combined aqueous washings are extracted twice with 1.0 l of ether each time. The organic phases are combined, washed with saturated sodium chloride solution, dried over magnesium sulfate and evaporated. The oily residue is purified by fractional crystallization from petroleum ether (low-boiling) at -25°. There is obtained 1,4,10,11-tetrahydro-5H-dibenzo[a,d]cycloheptene as white crystals of melting point 42.5°-43°.

reactant | ammonia | N | H3N
reactant | lithium | 8.6 g | [Li] | Li
reactant | 10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 80.0 g | C1=CC=CC=2CC3=C(CCC21)C=CC=C3 | C15H14
reactant | sodium benzoate | 6.0 g | C(C1=CC=CC=C1)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 1.44 l | O1CCCC1 | C4H8O
solvent | t-butanol | 280 g | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 1.28 l | O1CCCC1 | C4H8O
product | 1,4,10,11-tetrahydro-5H-dibenzo[a,d]cycloheptene | C1C=CCC=2CC3=C(CCC21)C=CC=C3 | C15H16
